US06919485B2
2,5-Difluoro-2′,6-dimethyl-4′,5′,6′-trimethoxybenzophenone (I.5-02)
9.3 g (54.3 mmol) of 3,6-difluoro-2-methylbenzoic acid and 9.88 g (54.3 mmol) of 3,4,5-trimethoxytoluene were introduced into 250 ml of absolute dichloromethane, and 54 g (380 mmol) of pulverulent phosphorus pentoxide were then added. The mixture was stirred for 16 hours at room temperature. According to HPLC check, the trimethoxytoluene had not been reacted completely. A further 13.5 g of phosphorus pentoxide were added. After a further four hours, the reaction mixture was poured into water and extracted with dichloromethane. The combined organic phases were then dried and concentrated. The crude product was purified by reversed-phase MPLC (eluent acetonitrile/water 7:3). This gave 12.2 g of the compound I.5-02 (36 mmol, 67% yield).

reactant | 3,6-difluoro-2-methylbenzoic acid | 54.3 mmol, 9.3 g | FC=1C(=C(C(=O)O)C(=CC1)F)C | C8H6F2O2
reactant | 3,4,5-trimethoxytoluene | 54.3 mmol, 9.88 g | COC=1C=C(C=C(C1OC)OC)C | C10H14O3
reactant | phosphorus pentoxide | 380 mmol, 54 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | trimethoxytoluene | COC(C1=CC=CC=C1)(OC)OC | C10H14O3
reactant | phosphorus pentoxide | 13.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | water | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2,5-Difluoro-2′,6-dimethyl-4′,5′,6′-trimethoxybenzophenone | 67% yield | FC1=C(C(=O)C2=C(C=C(C(=C2OC)OC)OC)C)C(=C(C=C1)F)C | C18H18F2O4
